US06992087B2
Preparation of benzyl (3R,4S)-3-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-4-ethoxypyrrolidine-1-carboxylate
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but benzyl (3R,4S)-3-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-4-hydroxypyrrolidine-1-carboxylate and making non-critical variations provided the title compound as a oil: 1H NMR (DMSO-d6) δ) 1.04, 1.16, 2.38, 2.68, 3.34, 3.40, 3.54, 3.70, 3.82, 4.18, 4.62, 5.10, 5.95, 6.98, 7.10, 7.26, 7.38; IR (diffuse reflectance) 2971, 2934, 2350 (w), 2338 (w), 2063 (w), 1949 (w), 1710 (s), 1568, 1482 (s), 1419 (s), 1397 (s), 1348, 1287, 1228, 1096, cm−1 HRMS (FAB) calcd for C29H35ClN4O4+H 539.2425, found 539.2436.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | benzyl (3R,4S)-3-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-4-hydroxypyrrolidine-1-carboxylate | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1O)C(=O)OCC1=CC=CC=C1)CC | C27H31ClN4O4
product | benzyl (3R,4S)-3-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-4-ethoxypyrrolidine-1-carboxylate | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C(=O)OCC1=CC=CC=C1)CC | C29H35ClN4O4
